US06482829B2
8-(3,5-Bis-trifluoromethyl-benzoyl)-3-cyclopropylmethyl-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-2-one
The title compound, MS: m/e=540.4 (M+H+), was prepared in accordance with the general method of example 99 from 8-(3,5-bis-trifluoromethyl-benzoyl)-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-2-one and cyclopropyl methyl bromide.

reactant | 8-(3,5-bis-trifluoromethyl-benzoyl)-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-2-one | FC(C=1C=C(C(=O)N2CCC3(CNC(N3C3=C(C=CC=C3)C)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C23H21F6N3O2
reactant | cyclopropyl methyl bromide | C1(CC1)CBr | C4H7Br
product | 8-(3,5-Bis-trifluoromethyl-benzoyl)-3-cyclopropylmethyl-1-o-tolyl-1,3,8-triaza-spiro[4.5]decan-2-one | FC(C=1C=C(C(=O)N2CCC3(CN(C(N3C3=C(C=CC=C3)C)=O)CC3CC3)CC2)C=C(C1)C(F)(F)F)(F)F | C27H27F6N3O2
